US07737152B2
N2-(3-fluorophenyl)-N6-(3,4,5-trimethoxyphenyl)pyrazine-2,6-diamine, CJS 707
Using Method R, with 200 mg of 2-(3,4,5-trimethoxyphenylamino)-6-chloropyrazine (all amounts scaled accordingly) and 3-fluoroaniline, 60 mg of title compound were obtained. Yield: 23%. 1H NMR (250 MHz, DMSO-d6) δ 3.62 (s, 3H), 3.65 (s, 6H), 6.65-6.72 (m, 1H), 6.81 (s, 2H), 7.24 (m, 2H), 7.56 (s, 1H), 7.58 (s, 1H), 7.67 (d, 1H, J=13.0 Hz), 9.12 (s, 1H), 9.41 (s, 1H). 13C NMR (62.5 MHz, DMSO-d6) δ 55.45, 60.07, 97.24, 106.71, 107.05, 114.04, 122.16, 122.49, 130.14, 132.43, 136.55, 142.71, 142.89, 149.52, 150.10, 152.89.

reactant | 2-(3,4,5-trimethoxyphenylamino)-6-chloropyrazine | 200 mg | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)Cl | C13H14ClN3O3
reactant | 3-fluoroaniline | FC=1C=C(N)C=CC1 | C6H6FN
product | N2-(3-fluorophenyl)-N6-(3,4,5-trimethoxyphenyl)pyrazine-2,6-diamine | 60 mg, Yield: 23% | FC=1C=C(C=CC1)NC1=NC(=CN=C1)NC1=CC(=C(C(=C1)OC)OC)OC | C19H19FN4O3
